US09108934B2
(2R,4R)-4-[(5-Acetyl-1H-pyrazole-3-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid Ethyl Ester
To a stirred solution of 3-acetyl-1H-pyrazole-5-carboxylic acid (50.9 mg, 330 μmol), HATU (125 mg, 330 μmol), and DIPEA (104 μL, 0.6 mmol) in DMF (0.6 mL, 7.7 mmol), was added (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester (104 mg, 300 μmol). The resulting mixture was stirred at room temperature until the reaction was complete. The mixture was diluted with DCM and washed with saturated aqueous NaHCO3. The organics were dried over Na2SO4, and the solvent removed. Half of material was then purified by preparative HPLC to yield the title compound (20 mg) as a TFA salt. MS m/z [M+H]+ calc'd for C25H26ClN3O5, 484.16. found 484.1.

reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 330 μmol, 50.9 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HATU | 330 μmol, 125 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.6 mmol, 104 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 7.7 mmol, 0.6 mL | CN(C)C=O | C3H7NO
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid ethyl ester | 300 μmol, 104 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C19H22ClNO3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2R,4R)-4-[(5-Acetyl-1H-pyrazole-3-carbonyl)amino]-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic Acid Ethyl Ester | 20 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)NC(=O)C1=NNC(=C1)C(C)=O)O)=O | C25H26ClN3O5
